US05631269
a) 2-(4-Chlorobenzylidene)quinuclidin-3-one
A solution of 3-quinuclidinone (54.5 g), 4-chlorobenzaldehyde (84.0 g) and sodium hydroxide (3.50 g) in absolute ethanol (400 cm3) was heated at reflux for 2.5 hours. The mixture was cooled and addition of water (100 cm3) caused the product to precipitate as an orange solid. The precipitate was collected and washed with 1:1 ethanol-water (400 cm3). The mother-liquors were stood for 2 days, after which time further precipitated material was collected. The orange solid was redissolved in dichloromethane (800 cm3) and washed with water (200 cm3). The organic phase was dried (MgSO4), filtered and evaporated to dryness to give the title compound as a bright yellow powder (86.2 g, 76%), mp. 108°-110° C.; δH (360 MHz; CDCl3) 1.99-2.05 (4H, m, 2×NCH2CH2), 2.63 [(1H, quintet, J=2.9, (CH2)2CH], 2.92-3.01 (2H, m, 2×NCH), 3.11-3.19 (2H, m, 2×NCH), 6.95 (1H, s, C=CH), 7.33 (2H, d, J=8.6, 2×ArH o to Cl) and 7.98 (2H, d, J=8.6, 2×ArH m to Cl); m/z (CI+ ; NH3) 248 (M+ +H, 100%).

reactant | 3-quinuclidinone | 54.5 g | N12CC(C(CC1)CC2)=O | C7H11NO
reactant | 4-chlorobenzaldehyde | 84.0 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | sodium hydroxide | 3.50 g | [OH-].[Na+]
reactant | water | 100 cm3 | O | H2O
solvent | ethanol | 400 cm3 | C(C)O | C2H6O
product | 2-(4-Chlorobenzylidene)quinuclidin-3-one | 86.2 g, 76% | ClC1=CC=C(C=C2N3CCC(C2=O)CC3)C=C1 | C14H14ClNO
